* =========================================================
* Skadi 6-Bay Smart Charger
* Bay CHG/DIS interlock validation
* LTspice 26.x - FINAL REVIEW VERSION (Realistic CC-limited current)
* =========================================================

.param VIN=12
.param VBAT=8.0
.param RBAT=4.0
.param RLOAD=10
.param VLOG=3.3

* =========================================================
* POWER SOURCES
* =========================================================

* Main 12V supply + line resistance (realistic)
V_IN   VIN_RAW   0  {VIN}
R_VIN  VIN_RAW   VIN_NODE  0.2

* Battery model (effective CC limit equivalent)
V_BAT  BAT_SRC   0  {VBAT}
R_BAT  BAT_SRC   BAY_PWR   {RBAT}

* Local bay decoupling (realistic)
C_BAY     BAY_PWR 0  47u  Rser=0.05
C_BAY_HF  BAY_PWR 0  100n Rser=0.02

* External discharge load
R_ELOAD  ELOAD_POS  0  {RLOAD}

* =========================================================
* CONTROL SIGNALS (Firmware simulation)
* =========================================================

* CHG: ON from 2ms to 8ms
V_CHG_EN CHG_EN 0 PULSE(0 {VLOG} 2m 2u 2u 6m 12m)

* DIS: ON from 9ms to 14ms (no overlap nominal)
V_DIS_EN DIS_EN 0 PULSE(0 {VLOG} 9m 2u 2u 5m 12m)

* =========================================================
* CHARGE SWITCH (High-side P-MOS)
* =========================================================

* Current sense source
VCHG_SENSE VIN_NODE VIN_CHG_SRC 0

* P-MOS
M_PCHG  BAY_PWR  G_CHG  VIN_CHG_SRC  VIN_CHG_SRC  AO4407A_P

* Gate network
R_PU_CHG   G_CHG      VIN_NODE     100k
R_G_CHG    G_CHG      G_CHG_INT    100
M_NCHG     G_CHG_INT  CHG_EN       0 0 DMG2302_N

* =========================================================
* DISCHARGE SWITCH (High-side P-MOS)
* =========================================================

VDIS_SENSE BAY_PWR DIS_SRC 0

M_PDIS  ELOAD_POS  G_DIS  DIS_SRC  DIS_SRC  AO4407A_P

R_PU_DIS   G_DIS      BAY_PWR     100k
R_G_DIS    G_DIS      G_DIS_INT   100
M_NDIS     G_DIS_INT  DIS_EN      0 0 DMG2302_N

* =========================================================
* HARDWARE INTERLOCK (Cross Diodes)
* =========================================================

D_INT1  G_CHG_INT  G_DIS_INT  D4148
D_INT2  G_DIS_INT  G_CHG_INT  D4148

.model D4148 D(Is=2n Rs=0.5 N=1.9 Cjo=2p M=0.3 Vj=0.75 Bv=100 Ibv=1u)

* =========================================================
* MOSFET MODELS (Generic but realistic)
* =========================================================

.model AO4407A_P PMOS (Level=1 Vto=-2.6 Kp=2.5 Rs=8m Rd=8m Lambda=0.01)
.model DMG2302_N NMOS (Level=1 Vto=1.8  Kp=0.35 Rs=0.2 Rd=0.2 Lambda=0.02)

* =========================================================
* SIMULATION
* =========================================================

.options plotwinsize=0
.tran 0 20m 0 20n

* =========================================================
* MEASUREMENTS
* =========================================================

* ---- Vgs safety check ----
.meas tran VGS_CHG_MIN  min  V(G_CHG, VIN_CHG_SRC)
.meas tran VGS_DIS_MIN  min  V(G_DIS, DIS_SRC)

* ---- Current measurements ----
.meas tran ICHG_MAX      max abs(I(VCHG_SENSE))
.meas tran IDIS_MAX      max abs(I(VDIS_SENSE))

* Steady current during charge (4ms)
.meas tran ICHG_7MS FIND abs(I(VCHG_SENSE)) AT=7m

* Turn-on peak window
.meas tran ICHG_PEAK_ON  max abs(I(VCHG_SENSE)) FROM 2m TO 2.3m

* ---- Firmware overlap detection ----
BOV OV 0 V = (V(CHG_EN) > 1.6) * (V(DIS_EN) > 1.6)

.meas tran TOV_RISE  when V(OV)=0.5 rise=1
.meas tran TOV_FALL  when V(OV)=0.5 fall=1
.meas tran TOV_WIDTH param (TOV_FALL - TOV_RISE)

* ---- Supply peak current ----
.meas tran I_VIN_MAX max abs(I(V_IN))

.end